US08487108B2
A solution of (S)-tert-butyl 1-hydroxy-5-methoxy-4,4-dimethylpentan-2-ylcarbamate (7.8 g, 30 mmol) in methylene chloride (150 mL) and Et3N (10.4 mL, 75 mmol) was cooled to −20° C., MsCl (6.9 g, 60 mmol) was added with fast dropwise addition maintaining the internal temperature at −20° C. The reaction mixture was stirred for 1 h in rt. The reaction was quenched with water (100 mL), extracted with CH2Cl2 (3×100 mL), washed with water and brine, dried over Na2SO4 and concentrated in vacuo to give (S)-2-(tert-butoxycarbonylamino)-5-methoxy-4,4-dimethylpentyl methanesulfonate (10.1 g, 100%) as an oil that was used in the next step without further purification.

reactant | (S)-tert-butyl 1-hydroxy-5-methoxy-4,4-dimethylpentan-2-ylcarbamate | 30 mmol, 7.8 g | OC[C@H](CC(COC)(C)C)NC(OC(C)(C)C)=O | C13H27NO4
reactant | Et3N | 75 mmol, 10.4 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 60 mmol, 6.9 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(tert-butoxycarbonylamino)-5-methoxy-4,4-dimethylpentyl methanesulfonate | 10.1 g, 100% | CS(=O)(=O)OC[C@H](CC(COC)(C)C)NC(=O)OC(C)(C)C | C14H29NO6S
